US05025036
A solution of 0.30 g of 5-chloro-2-hydroxy-4-[6-[2,3-bis(phenylmethoxy)phenyl]hexyloxy]-3-propylbenzoic acid methyl ester in 10 mL of methanol, 5 mL of dioxane and 2.5 mL of 1N sodium hydroxide was left at room temperature for 3 days. The solvent was removed under reduced pressure and the residue was acidified and extracted with ethyl acetate. The dried extract was concentrated and chromatographed on 30 g of silica gel using acetic acid:ethyl acetate:toluene (1:25:75) to give 0.21 g of 5-chloro-2-hydroxy-4-[6-[2,3-bis(phenylmethoxy)phenyl]hexyloxy]-3-propylbenzoic acid as an oil.

reactant | 5-chloro-2-hydroxy-4-[6-[2,3-bis(phenylmethoxy)phenyl]hexyloxy]-3-propylbenzoic acid methyl ester | 0.30 g | COC(C1=C(C(=C(C(=C1)Cl)OCCCCCCC1=C(C(=CC=C1)OCC1=CC=CC=C1)OCC1=CC=CC=C1)CCC)O)=O | C37H41ClO6
solvent | methanol | 10 mL | CO | CH4O
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
solvent | sodium hydroxide | 1N, 2.5 mL | [OH-].[Na+]
product | 5-chloro-2-hydroxy-4-[6-[2,3-bis(phenylmethoxy)phenyl]hexyloxy]-3-propylbenzoic acid | 0.21 g | ClC=1C(=C(C(=C(C(=O)O)C1)O)CCC)OCCCCCCC1=C(C(=CC=C1)OCC1=CC=CC=C1)OCC1=CC=CC=C1 | C36H39ClO6
